US06852721B2
(1S,4S)-2-(5-(3-Thienyl)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane
To a stirred solution of (1S,4S)-5-(5-(3-thienyl)-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane (0.63 g, 1.4 mmol) in anisole (3.0 mL) at 0-5° C. under a nitrogen atmosphere, trifluoroacetic acid (2.0 mL, 26 mmol) was added dropwise over a 10 min period. After 0.5 h at 25° C., the solution was adjusted to pH 5 using 10% NaOH, followed by extraction with diethyl ether (1×15 mL) to remove the anisole. The aqueous portion was adjusted to pH 11 using 10% NaOH, followed by extraction with diethyl ether (3×25 mL). The combined diethyl ether extracts were dried (Na2SO4) filtered and concentrated under vacuum. Purification of the residue by column chromatography on silica gel, using chloroform:methanol:triethylamine (40:5:1) as eluent, gave a light yellow oil (124 mg, 34%).

reactant | (1S,4S)-5-(5-(3-thienyl)-3-pyridyl)-2-(tert-butoxycarbonyl)-2,5-diazabicyclo[2.2.1]heptane | 1.4 mmol, 0.63 g | S1C=C(C=C1)C=1C=C(C=NC1)N1[C@@H]2CN([C@H](C1)C2)C(=O)OC(C)(C)C | C19H23N3O2S
reactant | trifluoroacetic acid | 26 mmol, 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | [OH-].[Na+]
solvent | anisole | 3.0 mL | C1(=CC=CC=C1)OC | C7H8O
product | (1S,4S)-2-(5-(3-Thienyl)-3-pyridyl)-2,5-diazabicyclo[2.2.1]heptane | 124 mg, 34% | S1C=C(C=C1)C=1C=C(C=NC1)N1[C@@H]2CN[C@H](C1)C2 | C14H15N3S
